US06096918
(E)-3-(2-Hydroxy-phenyl)-acrylic acid
To a solution of 100.0 g 3-(2-hydroxy-phenyl)-acrylic acid ethyl ester in 500 ml of ethanol, a solution of 50.9 g potassium hydroxide in 500 ml of water was dropped in at room temperature. After stirring at reflux for 28 hours, the reaction mixture was concentrated. The residue was diluted with 500 ml HCl 2N and extracted with ether. The organic phase was washed with 2N HCl and water, dried and evaporated to dryness. The resulting solid was recrystallized to yield 44.3 g of colourless crystals.

reactant | 3-(2-hydroxy-phenyl)-acrylic acid ethyl ester | 100.0 g | C(C)OC(C=CC1=C(C=CC=C1)O)=O | C11H12O3
reactant | potassium hydroxide | 50.9 g | [OH-].[K+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | (E)-3-(2-Hydroxy-phenyl)-acrylic acid | 44.3 g | OC1=C(C=CC=C1)/C=C/C(=O)O | C9H8O3
